US04668274
17.62 g. (0.1 mole) 7-hydroxy-4-methyl-coumarin (4-methyl-umbelliferon) are dissolved in a 8% aqueous solution of 0.2 mole sodium hydroxide and a solution of 4 g. benzyl-tributyl-ammonium-chloride phase transfer catalyst and 37.5 g. (0.2 mole) 1,2-dibromo-ethane in 200 ml. ethylene-chloride is added. The mixture is heated for 14 hours under stirring and allowed to cool. 60 ml. dichloromethane are added, the mixture is filtered and the organic layer is separated from the filtrate and washed with distilled water, dried and evaporated. 19.82 g. (0.07 mole) 7-(2'-bromo-ethyl-oxy)-4-methyl-coumarin are obtained, melting point: 94°-97° C.

reactant | 7-hydroxy-4-methyl-coumarin | 0.1 mole | OC1=CC=C2C(=CC(OC2=C1)=O)C | C10H8O3
reactant | sodium hydroxide | 0.2 mole | [OH-].[Na+]
reactant | 1,2-dibromo-ethane | 0.2 mole | BrCCBr | C2H4Br2
reactant | ethylene-chloride | C(CCl)Cl | C2H4Cl2
catalyst | benzyl-tributyl-ammonium-chloride | [Cl-].C(C1=CC=CC=C1)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | ClCCl | CH2Cl2
product | 7-(2'-bromo-ethyl-oxy)-4-methyl-coumarin | 0.07 mole | BrCCOC1=CC=C2C(=CC(OC2=C1)=O)C | C12H11BrO3
